US04824839
8-Hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide was treated with ammonium hydroxide. The resulting mixture was filtered to give 8-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. 241°-242°. This was treated with methanesulfonic acid to give the methanesulfonate, m.p. 267°-269°.

reactant | 8-Hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC=1C(=CC2=C(CCNCC2)C1)S(=O)(=O)C
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 8-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | OC=1C(=CC2=C(CCNCC2)C1)S(=O)(=O)C | C11H15NO3S
